US04031226
A mixture of 12 parts of N-{1,3-dihydro-1-[1-(phenylmethyl)-4-piperidinyl]-2H-benzimidazol-2-ylidene}acetamide and 120 parts of methanol is hydrogenated at normal pressure and at room temperature with 5 parts of palladium-on-charcoal catalyst 10%. After the calculated amount of hydrogen is taken up, the catalyst is filtered off over hyflo and the filtrate is evaporated. The residue is crystallized from a mixture of 2,2'-oxybispropane and 2-propanol. The product is filtered off and recrystallized from a mixture of ethanol and 2,2'-oxybispropane, yielding 2.6 parts of N-[1,3-dihydro-1-(4-piperidinyl)-2H-benzimidazol-2-ylidene]acetamide; mp. 164.5° C.

reactant | N-{1,3-dihydro-1-[1-(phenylmethyl)-4-piperidinyl]-2H-benzimidazol-2-ylidene}acetamide | C1(=CC=CC=C1)CN1CCC(CC1)N1C(NC2=C1C=CC=C2)=NC(C)=O | C21H24N4O
reactant | hydrogen | [H][H] | H2
catalyst | palladium-on-charcoal | [Pd] | Pd
solvent | methanol | CO | CH4O
product | N-[1,3-dihydro-1-(4-piperidinyl)-2H-benzimidazol-2-ylidene]acetamide | N1CCC(CC1)N1C(NC2=C1C=CC=C2)=NC(C)=O | C14H18N4O
